US09371270B2
1) Synthesis of 8,9-dihydro-4H-cyclopenta[def]phenanthrene
10.0 g (52.6 mmol) of 4H-cyclopenta[def]phenanthrene and 8.40 g of 5% Pd/C were dissolved in 70 ml of EtOH in a Par reactor bottle, and the resultant solution was stirred at room temperature for 24 hours with hydrogen pressure being maintained at 40 psi. After the reaction was completed, the reaction solution was filtered and the solvent was evaporated therefrom to obtain 8.60 g of white target material (yield: 85.0%). The obtained compound was confirmed by liquid chromatography-mass spectrometry (LC-MS).

reactant | 4H-cyclopenta[def]phenanthrene | 52.6 mmol, 10.0 g | C1=CC=C2C3=C4C(=CC=CC4=CC=C13)C2 | C15H10
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 70 ml | CCO | C2H6O
catalyst | Pd/C | 8.40 g | [Pd] | Pd
product | 8,9-dihydro-4H-cyclopenta[def]phenanthrene | 8.60 g, yield: 85.0% | C1=CC=C2C=3C=4C(=CC=CC4CCC13)C2 | C15H12
